US08497265B2
Preparation P25.1: Tert-Butyl 3-((3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Azetidine-1-Carboxylate
2-chloro-3-(3,6-dihydro-2H-pyran-4-yl)-pyridine (see PREPARATION P13.1; 3.5 g, 17.9 mmol) and tert-butyl 3-hydroxyazetidine-1-carboxylate (2.8 g, 17.9 mmol) were dissolved in DMSO (20 mL) and sodium tert-butoxide (t-BuONa) (3.4 g, 35.8 mmol) was added to the above solution. The reaction mixture was stirred at room temperature for overnight. The reaction mixture was diluted with water and extracted with ethyl acetate (2×10 mL). The combined organic layers were dried over Na2SO4 and concentrated to give the crude product. The crud product was purified by silica gel column chromatography to give the title compound (2.3 g, 7.8 mmol, yield 75%). 1H NMR (DMSO-D6, 300 MHz) δ (ppm) 1.38 (s, 9H), 2.41-2.47 (m, 2H), 3.75-3.86 (m, 4H), 4.19-4.30 (m, 4H), 5.26-5.35 (m, 1H), 6.15-6.20 (m, 1H), 7.01 (dd, 1H, J=7.31 Hz, 4.97 Hz), 7.62 (d, 1H, J=7.45 Hz), 8.02 (d, 1H, J=4.82 Hz)

reactant | 2-chloro-3-(3,6-dihydro-2H-pyran-4-yl)-pyridine | 17.9 mmol, 3.5 g | ClC1=NC=CC=C1C=1CCOCC1 | C10H10ClNO
reactant | tert-butyl 3-hydroxyazetidine-1-carboxylate | 17.9 mmol, 2.8 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
reactant | sodium tert-butoxide | 35.8 mmol, 3.4 g | CC(C)([O-])C.[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Tert-Butyl 3-((3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Azetidine-1-Carboxylate | 7.8 mmol, 2.3 g, yield 75% | O1CCC(=CC1)C=1C(=NC=CC1)OC1CN(C1)C(=O)OC(C)(C)C | C18H24N2O4
